US05006157
Preparation of 4-acetoxy-1-(α,α-dimethylbenzyl)-3-phenyl-3-pyrrolin-2-one
5 g (17 mmol) of 1-(α,α-dimethylbenzyl)-4-hydroxy-2-oxo-3-phenyl-3-pyrroline prepared by the method of Reference Example 13, was dissolved in a solution of 10 ml of acetic anhydride and 20 ml of pyridine, and the solution was stirred at room temperature for one day and night. Ice water was added to the reaction solution and extracted with ethyl acetate. The ethyl acetate layer was thoroughly washed with water and then dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was recrystallized from isopropyl ether to obtain 4.2 g (yield: 81%) of the desired compound.

reactant | 1-(α,α-dimethylbenzyl)-4-hydroxy-2-oxo-3-phenyl-3-pyrroline | 17 mmol, 5 g | CC(C1=CC=CC=C1)(C)N1C(C(=C(C1)O)C1=CC=CC=C1)=O | C19H19NO2
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 4-acetoxy-1-(α,α-dimethylbenzyl)-3-phenyl-3-pyrrolin-2-one | 4.2 g, yield: 81% | C(C)(=O)OC1=C(C(N(C1)C(C1=CC=CC=C1)(C)C)=O)C1=CC=CC=C1 | C21H21NO3
